US07842694B2
N-(1-Methyl-1H-pyrazol-3-yl)-3,5-bis[(phenylmethyl)oxy]benzamide
Oxalyl chloride (7.71 mL, 89.7 mmol) was added dropwise to a suspension of 3,5-dibenzyloxybenzoic acid (20.0 g, 59.8 mmol) in DCM (0.5 L) under argon. The reaction was stirred at RT for 6 hours after which time the volatiles were removed in vacuo. The residue was taken up in DCM (300 mL) and a solution of 1-methyl-1H-pyrazol-3-amine (5.81 g, 59.8 mmol) in DCM (50 mL) was added dropwise. The resulting solution was stirred for 16 hours at RT after which time a precipitate had formed. The solid was isolated by filtration and recrystallised from ethanol to give the title compound as a white solid (14.8 g). 1H NMR δ (d6-DMSO): 3.84 (3H, s), 5.17 (4H, s), 6.59 (1H, d), 6.84 (1H, t), 7.33-7.46 (12H, m), 7.62 (1H, d), 10.83 (1H, s); m/z 414 (M+H)+.

reactant | Oxalyl chloride | 89.7 mmol, 7.71 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-dibenzyloxybenzoic acid | 59.8 mmol, 20.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C21H18O4
reactant | 1-methyl-1H-pyrazol-3-amine | 59.8 mmol, 5.81 g | CN1N=C(C=C1)N | C4H7N3
solvent | DCM | 0.5 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(1-Methyl-1H-pyrazol-3-yl)-3,5-bis[(phenylmethyl)oxy]benzamide | 14.8 g | CN1N=C(C=C1)NC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C25H23N3O3
